US07517995B2
tert-butyl[2-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamate
2.20 g (21.54 mmol) N-hydroxy-isobutyramidine are placed in 10 ml dimethylformamide and molecular sieve. 0.948 g (23.69 mmol) sodium hydride (60% in mineral oil) are added. The mixture is stirred for 0.1 hours at 50° C., then 6.20 g (30.51 mmol) methyl 3-tert-butoxycarbonylamino-propionate in 20 ml dimethylformamide are added. The reaction mixture is stirred for 3 hours at 50° C. After cooling 15 ml of water are added, the mixture is suction filtered through Celite. The 2 phases of the filtrate are separated, the aqueous phase is extracted with ethyl acetate, the combined organic phase is evaporated down. The residue is purified by chromatography.

reactant | N-hydroxy-isobutyramidine | 21.54 mmol, 2.20 g | ONC(C(C)C)=N | C4H10N2O
reactant | sodium hydride | 23.69 mmol, 0.948 g | [H-].[Na+]
reactant | methyl 3-tert-butoxycarbonylamino-propionate | 30.51 mmol, 6.20 g | C(C)(C)(C)OC(=O)NCCC(=O)OC | C9H17NO4
reactant | water | 15 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | tert-butyl[2-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamate | C(C)(C)(C)OC(NCCC1=NC(=NO1)C(C)C)=O | C12H21N3O3
